US04031221
By following the manipulative procedure described in Example 2(d), 2.6 g of lithium aluminum hydride in 80 ml. of tetrahydrofuran and 6.0 g of 1-(indol-3-ylglyoxyloyl)-4-(p-fluorophenoxy)piperidine in 60 ml. of tetrahydrofuran are allowed to react to produce a white solid. The solid is recrystallized from isopropanol, and then from an ethanol and water mixture to give colorless cubes of 3-{2-[4-(p-fluorophenoxy)piperidyl]ethyl}indole, m.p. 109°-111° C.

reactant | lithium aluminum hydride | 2.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(indol-3-ylglyoxyloyl)-4-(p-fluorophenoxy)piperidine | 6.0 g | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCC(CC1)OC1=CC=C(C=C1)F)=O | C21H19FN2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-{2-[4-(p-fluorophenoxy)piperidyl]ethyl}indole | FC1=CC=C(OC2CCN(CC2)CCC2=CNC3=CC=CC=C23)C=C1 | C21H23FN2O
